US05480899
Synthesis of methyl 4-(3-phenyl-2-oxooxazolidin-4-yl)methoxybenzoate
The same procedure of Example 22 was repeated except that 3-phenyl-2-oxooxazolidin-4-ylmethyl methanesulfonate obtained in Reference Example 20 was used in lieu of 3-(4-chlorophenyl)-2-oxooxazolidin-4-ylmethyl methanesulfonate to give the title compound (compound 177) in a yield of 60%.

reactant | 3-phenyl-2-oxooxazolidin-4-ylmethyl methanesulfonate | CS(=O)(=O)OCC1N(C(OC1)=O)C1=CC=CC=C1 | C11H13NO5S
reactant | 3-(4-chlorophenyl)-2-oxooxazolidin-4-ylmethyl methanesulfonate | CS(=O)(=O)OCC1N(C(OC1)=O)C1=CC=C(C=C1)Cl | C11H12ClNO5S
product | methyl 4-(3-phenyl-2-oxooxazolidin-4-yl)methoxybenzoate | yield of 60% | C1(=CC=CC=C1)N1C(OCC1COC1=CC=C(C(=O)OC)C=C1)=O | C18H17NO5
